US07056917B2
(A) Methyl (E)-3-{2-(3-formylpiperidino)-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl}-2-propenoate
1-{3-Formyl-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl}-3-piperidylformate (94.0 mg, 0.207 mmol) and bis(2,2,2-trifluoroethyl)-(methoxycarbonylmethyl)phosphonoate (0.131 ml, 0.620 mmol) were dissolved in tetrahydrofuran (2 ml), added with DBU (0.085 ml, 0.620 mmol) and lithium chloride (26.3 mg, 0.620 mmol), and then the mixture was stirred at room temperature for 1 hour.

reactant | 1-{3-Formyl-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl}-3-piperidylformate | 0.207 mmol, 94.0 mg | C(=O)C1=C(N=C2N(C1=O)C=CC(=C2)CCC=2SC=C(N2)C(C)C)N2CC(CCC2)C(=O)[O-]
reactant | bis(2,2,2-trifluoroethyl)-(methoxycarbonylmethyl)phosphonoate | 0.620 mmol, 0.131 ml | FC(COP(OCC(F)(F)F)(=O)CC(=O)OC)(F)F | C7H9F6O5P
reactant | DBU | 0.620 mmol, 0.085 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | lithium chloride | 0.620 mmol, 26.3 mg | [Cl-].[Li+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | Methyl (E)-3-{2-(3-formylpiperidino)-8-[2-(4-isopropyl-1,3-thiazol-2-yl)ethyl]-4-oxo-4H-pyrido[1,2-a]pyrimidin-3-yl}-2-propenoate | C(=O)C1CN(CCC1)C=1N=C2N(C(C1/C=C/C(=O)OC)=O)C=CC(=C2)CCC=2SC=C(N2)C(C)C | C26H30N4O4S
